US03974168
2.9 g of sodium salt of 1-(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)-1-cyano-acetone is dissolved in 15 ml of dried dimethylformamide, 1.6 g of methyl iodide is added to the solution with stirring, and the mixture is stirred at room temperature for 1.5 hours. The reaction mixture is concentrated, and water is added to the oily residue. The crystalline precipitate is filtered off and recrystallized from ethanol to give 2.2 g of 3-(5H-[1]-benzopyrano[2,3-b]pyridin-7-yl)-3-cyano-2-butanone as white needles melting at 163.5°-164.5°C.

reactant | sodium | 2.9 g | [Na] | Na
reactant | 1-(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)-1-cyano-acetone | N1=C2C(=CC=C1)CC1=C(O2)C=CC(=C1)C(C(=O)C)C#N | C16H12N2O2
reactant | methyl iodide | 1.6 g | CI | CH3I
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-(5H-[1]-benzopyrano[2,3-b]pyridin-7-yl)-3-cyano-2-butanone | 2.2 g | N1=C2C(=CC=C1)CC1=C(O2)C=CC(=C1)C(C(C)=O)(C)C#N | C17H14N2O2
